US03933804
EXAMPLE 79: 1-Bromo-4-isobutoxy-2-methyl-2-butene
6.8 g (0.03 mol) of 1,4-dibromo-2-methyl-2-butene are dissolved in 15 cc of isobutanol and 2.9 g (0.03 mol) of sodium isobutylate in 50 cc of isobutanol are added at 0°. After stirring at 0° for 2 hours the mixture is stirred at 20°-25° for 16 hours. The mixture is filtered and the filtrate is evaporated at reduced pressure. The residue is dissolved in ether, washed with saturated salt solution and dried with sodium sulphate. The ether is evaporated and the residue is distilled at 13 mm. The product has a B.P. of 128°-138°/13 mm.

reactant | 1,4-dibromo-2-methyl-2-butene | 0.03 mol, 6.8 g | BrCC(=CCBr)C | C5H8Br2
reactant | isobutanol | 15 cc | C(C(C)C)O | C4H10O
reactant | isobutanol | 50 cc | C(C(C)C)O | C4H10O
product | 1-Bromo-4-isobutoxy-2-methyl-2-butene | BrCC(=CCOCC(C)C)C | C9H17BrO
